US07683064B2
Combined 0.131 g (0.5 mmol, 1 eq) 6-(2-Hydroxy-1,1-dimethyl-ethyl)-2-(4-methoxy-benzyl)-3,4-dihydro-2H-isoquinolin-1-one, 0.528 g 2,6-dibromobenzaldehyde (2 mmol, 4 eq), 6 mg Xantphos (0.01 mmol, 0.02 eq), 9 mg bis(dibenzylideneacetone)palladium (0.015 mmol, 0.03 eq), and 0.326 g Cesium Carbonate (1 mmol, 2.0 eq) in 5 ml dioxane, bubbled argon gas through the mixture for 1 minute, sealed the reaction vessel and heated at 100 C for 13 hours, filtered through a sintered glass funnel while hot, concentrated and purified on a silica gel column eluting with 5% to 10% Methanol in CH2Cl2 to give 148 mg. Rotovaped, chromatographed (10% to 30% ea in hexanes) to give a solid, 325 mg 2-Bromo-6-{6-[2-(2-hydroxy-ethoxy)-1,1-dimethyl-ethyl]-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl}-benzaldehyde. MS (ESI) 446.0 (M+H)+.

reactant | 6-(2-Hydroxy-1,1-dimethyl-ethyl)-2-(4-methoxy-benzyl)-3,4-dihydro-2H-isoquinolin-1-one | 0.5 mmol, 0.131 g, 1 eq | OCC(C)(C)C=1C=C2CCN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC | C21H25NO3
reactant | 2,6-dibromobenzaldehyde | 2 mmol, 0.528 g, 4 eq | BrC1=C(C=O)C(=CC=C1)Br | C7H4Br2O
reactant | Cesium Carbonate | 1 mmol, 0.326 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 0.015 mmol, 9 mg, 0.03 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | Xantphos | 0.01 mmol, 6 mg, 0.02 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-Bromo-6-{6-[2-(2-hydroxy-ethoxy)-1,1-dimethyl-ethyl]-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl}-benzaldehyde | 325 mg | BrC1=C(C=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)C(COCCO)(C)C)=O | C22H24BrNO4
